US05391778
2β-Iodo-1α-methylandrost-4-ene-3,17-dione
68.95 g of 88.8% (0.179 mol) 3-acetoxy-1α-methyl-androsta-2,4-dien-17-one (DE-A 3715869) is dissolved in 800 ml of acetone, mixed with 32.9 g (0.4 mol) of anhydrous sodium acetate and cooled with stirring to -10° C. Then, 29 g (0.179 mol) of iodine chloride (iodine monochloride) is added under nitrogen atmosphere at -10° C. and it is stirred for another 30 minutes. Then, it is added to 6 l of ice water mixed with 6.65 g of sodium thiosulfate, the product is extracted with ethyl acetate, the organic phase is dried on sodium sulfate, filtered and concentrated by evaporation up to 200 ml. After standing overnight, the precipitated solid is suctioned off and dried. 49 g (64% of theory) of product is obtained. After chromatography of the mother liquor on silica gel with ethyl acetate/hexane as mobile solvent, another 10 g (13% of theory) of the title compound is obtained. The total yield is 59 g (77% of theory) of 2β-iodo-1α-methylandrost-4-ene-3,17-dione.

reactant | 3-acetoxy-1α-methyl-androsta-2,4-dien-17-one | 0.179 mol | C(C)(=O)OC=1C=C2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2([C@H](C1)C)C)=O | C22H30O3
reactant | sodium acetate | 0.4 mol, 32.9 g | C(C)(=O)[O-].[Na+]
reactant | iodine chloride | 0.179 mol, 29 g | ICl | ClI
reactant | sodium thiosulfate | 6.65 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetone | 800 ml | CC(=O)C | C3H6O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 2β-Iodo-1α-methylandrost-4-ene-3,17-dione | I[C@@H]1C(C=C2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2([C@H]1C)C)=O)=O | C20H27IO2
